US05212195
Methyl 3-[2-(n-butyl)pyrrol-4-yl]acrylate (AE) (6.2 g) (prepared, e.g., as described in Preparation 21), in DMF (200 ml) was treated with sodium hydride (1.8 g of 60% mineral oil dispersion) at 0° C., and the resulting mixture was stirred for 30 minutes at 0° C. 2'-(Cyano)biphenyl-4-ylmethyl bromide (9.8 g) was added, and the mixture allowed to come to room temperature. Water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate extract was washed with water, brine, dried over sodium sulfate and evaporated. The residue was chromatographed on silica gel, eluting with 25% ethyl acetate/hexane, affording methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]acrylate (9.17 g), a compound of Formula AF, as an oil.

reactant | Methyl 3-[2-(n-butyl)pyrrol-4-yl]acrylate | 6.2 g | C(CCC)C=1NC=C(C1)C=CC(=O)OC | C12H17NO2
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | 2'-(Cyano)biphenyl-4-ylmethyl bromide | 9.8 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CBr | C14H10BrN
reactant | Water | O | H2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | methyl 3-[2-(n-butyl)-1-(2"-cyanobiphenyl-4'-ylmethyl)pyrrol-4-yl]acrylate | 9.17 g | C(CCC)C=1N(C=C(C1)C=CC(=O)OC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H26N2O2
